* C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 1\Caso 2\ej1_circ1_caso2.asc
XU1 NC_01 NC_02 vcc vee NC_03 LMX24_LM2902
R3 N001 N004 150
R4 vout 0 10k
V1 0 vee 15
V2 vcc 0 15
R5 N004 0 4.7k
R6 N004 0 4.7k
v3 vin 0 AC 1
R7 vin N002 150
R8 N002 N001 4.7k
R9 N002 N001 4.7k
R1 vout N003 150
R2 N003 N001 4.7k
R10 N003 N001 4.7k
XU2 0 N001 vcc vee vout LM324
.ac dec 100 0.1 1G
.lib C:\Users\Male\Desktop\TC\TP2\EJ1\LMx24_LM2902.cir
.lib C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 1\Caso 1\LM324.mod.txt
.backanno
.end
